US05663452
101.0 g of n-butyraldehyde and 5.0 g of polyethylene glycol (PEG 400) were placed in a reactor. The mixture was cooled to 11° C., and a total of 171.0 g of a 0.25% aqueous solution of NaOH was added to it at such a rate that the temperature of the mixture remained at 30°-32° C. After 2 hours the mixture was neutralized with hydrochloric acid, the phases were separated, and the organic phase was hydrogenated with Raney nickel at 100° C. and at a hydrogen pressure of 20 bar. The product was analyzed gas chromatographically. The 2-ethyl-1,3-hexane diol yield was 57.7 g, which corresponded to a yield of 56.9%. The worst byproduct, 2-ethyl hexanol, formed in an amount of 1.8%, and the unreacted n-butyraldehyde had become reduced to 1-butanol.

reactant | n-butyraldehyde | 101.0 g | C(CCC)=O | C4H8O
reactant | NaOH | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
product | 2-ethyl hexanol | yield of 56.9% | C(C)C(CO)CCCC | C8H18O
